US08937087B2
To a mixture of ethyl (7-chloro-2-oxoquinoxalin-1(2H)-yl)acetate (2.21 g) and THF (25 mL) was added a 1 M aqueous NaOH solution (9.0 mL) at room temperature, followed by stirring at the same temperature for 4 hours. The reaction mixture was acidified by the addition of 1 M hydrochloric acid solution and then concentrated under reduced pressure. To the residue was added water, followed by stirring and collecting by filtration. The obtained solid was washed with water to obtain (7-chloro-2-oxoquinoxalin-1(2H)-yl)acetic acid (1.83 g).

reactant | ethyl (7-chloro-2-oxoquinoxalin-1(2H)-yl)acetate | 2.21 g | ClC1=CC=C2N=CC(N(C2=C1)CC(=O)OCC)=O | C12H11ClN2O3
reactant | NaOH | 1 M, 9.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (7-chloro-2-oxoquinoxalin-1(2H)-yl)acetic acid | 1.83 g | ClC1=CC=C2N=CC(N(C2=C1)CC(=O)O)=O | C10H7ClN2O3
